US06492403B1
To stirring solution of (tert-butoxy)-N-[(4-{2-[(4-hydroxyphenyl)amino](1,3-thiazol-4-yl)}-5-methylthio(2-thienyl))iminomethyl]carboxamide (65 mg, 0.14 mmol) in 1.5 mL of DMF was added sequentially Cs2CO3 (1.5 equiv, 60.1 mg, Aldrich Chemicals, Milwaukee, Wis.), bromoacetamide (1.2 equiv, 20.4 mg, Aldrich Chemicals, Milwaukee, Wis.), and a catalytic amount of KI. The reaction was warmed to 58° C. in an oil bath, stirred for 48 h, at which time another 0.6 equiv of bromoacetamide was added. Stirring was continued for another 24 h, at which time the reaction was filtered and concentrated in vacuo. The residue was purified by preparative thin layer chromatography (50% ethyl acetate-hexanes) to give 9 mg (12% yield) of (tert-butoxy)-N-{[4-(2-{[3-(carbamoylmethoxy)phenyl]amino}(1,3-thiazol-4-yl))-5-methylthio(2-thienyl)]iminomethyl}carboxamide. Mass Spectrum (ESI) m/z calcd. for C22H25N5O4S3, 519.7 (M+H), found 519.7, 420.7 [—C(O)OC(CH3)3].

reactant | (tert-butoxy)-N-[(4-{2-[(4-hydroxyphenyl)amino](1,3-thiazol-4-yl)}-5-methylthio(2-thienyl))iminomethyl]carboxamide | 0.14 mmol, 65 mg | C(C)(C)(C)OC(=O)NC=NC=1SC(=C(C1)C=1N=C(SC1)NC1=CC=C(C=C1)O)SC | C20H22N4O3S3
reactant | Cs2CO3 | 60.1 mg, 1.5 equiv | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | bromoacetamide | 20.4 mg, 1.2 equiv | BrCC(=O)N | C2H4BrNO
reactant | bromoacetamide | 0.6 equiv | BrCC(=O)N | C2H4BrNO
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | (tert-butoxy)-N-{[4-(2-{[3-(carbamoylmethoxy)phenyl]amino}(1,3-thiazol-4-yl))-5-methylthio(2-thienyl)]iminomethyl}carboxamide | 9 mg, 12% yield | C(C)(C)(C)OC(=O)NC=NC=1SC(=C(C1)C=1N=C(SC1)NC1=CC(=CC=C1)OCC(N)=O)SC | C22H25N5O4S3
